US09085555B2
C. [5-(2-Acetoxy-ethoxy)-1H-indol-3-yl]-acetic acid methyl ester
To a solution of (5-hydroxy-1H-indol-3-yl)-acetic acid methyl ester (670 mg, 3.26 mmol) in acetone (15 mL) was added cesium carbonate (1.17 g, 3.59 mmol) and 2-bromoethyl acetate (395 μL, 3.59 mmol). The suspension was refluxed overnight under nitrogen. Acetone was concentrated and the residue was dissolved in water and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 6:4) to give the desired material. TLC, Rf (c-hexane/EtOAc 1:1)=0.45; MS (LC-MS): 292.1 [M+H]+, 314.0 [M+Na]+, 290.0 [M−H]−; tR (HPLC conditions f): 1.70 min.

reactant | (5-hydroxy-1H-indol-3-yl)-acetic acid methyl ester | 3.26 mmol, 670 mg | COC(CC1=CNC2=CC=C(C=C12)O)=O | C11H11NO3
reactant | cesium carbonate | 3.59 mmol, 1.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl acetate | 3.59 mmol, 395 μL | C(C)(=O)OCCBr | C4H7BrO2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | [5-(2-Acetoxy-ethoxy)-1H-indol-3-yl]-acetic acid methyl ester | COC(CC1=CNC2=CC=C(C=C12)OCCOC(C)=O)=O | C15H17NO5
